US06423704B1
Stir a mixture of 1-(2-ethoxy-ethyl)-2-{4-[2-((S)-3-phenyl-pyrrolidin-3-yl)-ethyl]-[1,4]diazepan-1-yl}-1H-benzoimidazole dihydrochloride (0.53 g, 1 mmol, Preparation 12.1, named as 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl) [1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine), 4-hydroxy-2-methoxybenzoic acid (0.34 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.19 g, 1 mmol, Aldrich Chemical Company), 1-hydroxybenzotriazole hydrate (0.14 g, 1 mmol, Aldrich Chemical Company), diisopropyoethylamine (3.4 mL) and dichloromethane (10 mL) overnight at room temperature. Dilute the reaction mixture with dichloromethane, wash with saturated brine, dry (MgSO4) the organic phase, filter and concentrate the filtrate in vacuo. Purify the residue by column chromatography on silica gel eluting sequentially with ethyl acetate, 3% methanol in dichloromethane and 10% methanol in dichloromethane. Concentrate the appropriate fractions to afford 1-[(R)-3-(2-{4-[1-(2-ethoxy-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepan-1-yl}-ethyl)-3-phenyl-pyrrolidin-1-yl]-1-(5-hydroxy-2-methoxy-phenyl)-methanone (0.19 g), Rf=0.38 (silica gel, 10% methanol in dichloromethane).

reactant | 1-(2-ethoxy-ethyl)-2-{4-[2-((S)-3-phenyl-pyrrolidin-3-yl)-ethyl]-[1,4]diazepan-1-yl}-1H-benzoimidazole dihydrochloride | 1 mmol, 0.53 g | Cl.Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CC[C@]2(CNCC2)C2=CC=CC=C2
reactant | 4-hydroxy-2-methoxybenzoic acid | 0.34 g | OC1=CC(=C(C(=O)O)C=C1)OC | C8H8O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1 mmol, 0.19 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole hydrate | 1 mmol, 0.14 g | O.ON1N=NC2=C1C=CC=C2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-[(R)-3-(2-{4-[1-(2-ethoxy-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepan-1-yl}-ethyl)-3-phenyl-pyrrolidin-1-yl]-1-(5-hydroxy-2-methoxy-phenyl)-methanone | 0.19 g | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CC[C@]2(CN(CC2)C(=O)C2=C(C=CC(=C2)O)OC)C2=CC=CC=C2 | C36H45N5O4
